US05000946
A solution of 4,4-diacetylbutyronitrile (15.3 g, 0.1 mole) in ethyl alcohol (50 ml) over Raney nickel (2 g) was hydrogenated at room temperature and three atmospheres pressure. After hydrogen uptake had ceased, the catalyst was filtered off and the filtrate concentrated under reduced pressure to give 3-acetyl-2-methyl-1,4,5,6-tetrahydropyridine.

reactant | 4,4-diacetylbutyronitrile | 0.1 mole, 15.3 g | C(C)(=O)C(CCC#N)C(C)=O | C8H11NO2
reactant | hydrogen | [H][H] | H2
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 3-acetyl-2-methyl-1,4,5,6-tetrahydropyridine | C(C)(=O)C1=C(NCCC1)C | C8H13NO
